US05817698
(±) cis-1-[4-(1-(4-Fluorophenyl)-1-methylethyl)phenoxymethyl-2-phthalimido cyclopentane
To an ice cold solution of (±) cis-1-hydroxymethyl-2-phthalimidocyclopentane(1.17 g, 4.78 mmol), triphenylphosphine (1.50 g, 5.74 mmol) and 4-[1-(4-fluorophenyl)-1-methylethyl]phenol (1.1 g, 4.78 mmol) in dry tetrahydrofuran (40 ml) was added diethyl azodicarboxylate (0.90 ml, 5.74 mmol). The mixture was allowed to warm to room temperature and stirred for 4 days. The reaction was worked up as described in Preparation 7. The resulting yellow foam was purified by chromatography on a silica gel column eluting with 20-40% diethyl ether in petroleum ether 40-60. Pooling of pure fractions afforded the title compound as a colourless oil (0.61 g). Additional fractions afforded a further 0.9 g of product which was slightly contaminated with 4-[1-(4-fluorophenyl)-1-methylethyl]phenol.

reactant | (±) cis-1-hydroxymethyl-2-phthalimidocyclopentane | 4.78 mmol, 1.17 g | OC[C@H]1[C@H](CCC1)N1C(C=2C(C1=O)=CC=CC2)=O | C14H15NO3
reactant | triphenylphosphine | 5.74 mmol, 1.50 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-[1-(4-fluorophenyl)-1-methylethyl]phenol | 4.78 mmol, 1.1 g | FC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H15FO
reactant | diethyl azodicarboxylate | 5.74 mmol, 0.90 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 4-(1-(4-Fluorophenyl)-1-methylethyl)phenoxymethyl-2-phthalimido cyclopentane | 0.61 g | FC1=CC=C(C=C1)C(C)(C)C1CC(C(C1)COC1=CC=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C29H28FNO3
